US08466289B2
Synthesis of Intermediate 7-(4-Bromo-2-fluoro-phenylamino)-8-[1-(2,3-dihydroxy-propyl)-cyclopropanesulfonylamino]-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (I-4e)
OsO4 (0.1 mg, 0.00002 mol) was added to a stirred solution of 8-(1-allyl-cyclopropanesulfonylamino)-7-(4-bromo-2-fluoro-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (120 mg, 0.0002 mol) and N-methylmorpholine-N-oxide (35 mg, 0.0003 mol) in water and THF (3 mL). The resulting mixture was stirred at room temperature for 12 hours. The reaction was monitored by TLC (10% MeOH in CHCl3). The reaction mixture was partitioned between ethylacetate and water. The organic layer was concentrated to afford 75 mg of the crude product which was used in the next step without further purification.

reactant | 8-(1-allyl-cyclopropanesulfonylamino)-7-(4-bromo-2-fluoro-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 0.0002 mol, 120 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)Br)F)NS(=O)(=O)C2(CC2)CC=C | C25H30BrFN4O5S
reactant | N-methylmorpholine-N-oxide | 0.0003 mol, 35 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | MeOH | CO | CH4O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | OsO4 | 0.00002 mol, 0.1 mg | O=[Os](=O)(=O)=O
product | 7-(4-Bromo-2-fluoro-phenylamino)-8-[1-(2,3-dihydroxy-propyl)-cyclopropanesulfonylamino]-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 75 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)Br)F)NS(=O)(=O)C2(CC2)CC(CO)O | C25H32BrFN4O7S
